US07612201B2
Boron trichloride (1.0 M in DCM; 0.829 mL, 0.829 mmol) was added to a solution of 4-[3-(2-benzyloxy-4-fluoro-phenyl)-1H-pyrazol-4-yl]-piperazine-1-carboxylic acid tert-butyl ester (75 mg, 0.166 mmol) in DCM (7.5 mL). A brown precipitate formed. The mixture was stirred at room temperature for 1 hour and then poured into saturated aqueous sodium bicarbonate (50 mL) and extracted with DCM (3×50 mL). The combined organic layers were dried (MgSO4) and the solvents removed in vacuo. The product was purified by preparative HPLC to give 3-(4-fluoro-2-hydroxyphenyl)4(piperazin-1-yl)-1H-pyrazole (13 mg, 30%) as an off-white solid; δH (MeOH-d4) 7.96 (1H, br s), 7.72 (1H, s), 6.71-6.64 (2H, m), 3.36-3.33 (4H, m), 3.13-3.10 (4H, m), 2.65 (1H, s); LCMS retention time 1.46 min, M+H+ 263.2.

reactant | Boron trichloride | 0.829 mmol, 1.0 M, 0.829 mL | B(Cl)(Cl)Cl | BCl3
reactant | 4-[3-(2-benzyloxy-4-fluoro-phenyl)-1H-pyrazol-4-yl]-piperazine-1-carboxylic acid tert-butyl ester | 0.166 mmol, 75 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C(=NNC1)C1=C(C=C(C=C1)F)OCC1=CC=CC=C1 | C25H29FN4O3
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | DCM | 7.5 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-fluoro-2-hydroxyphenyl)4(piperazin-1-yl)-1H-pyrazole | 13 mg, 30% | FC1=CC(=C(C=C1)C1=NNC=C1N1CCNCC1)O | C13H15FN4O
